US04608374
11-[1-(1-Methylethyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate
To 509 ml DMF were added 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (6.4 g, 0.024 mole), isopropyl bromide (2.8 ml, 0.03 mole), milled K2CO3 (10 g, 0.07 mole) and KI (0.01 g).

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.024 mole, 6.4 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | isopropyl bromide | 0.03 mole, 2.8 ml | C(C)(C)Br | C3H7Br
reactant | K2CO3 | 0.07 mole, 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 509 ml | CN(C)C=O | C3H7NO
product | 11-[1-(1-Methylethyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate | C(C(=O)O)(=O)O.CC(C)N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | InChI=1S/C20H26N2O.C2H2O4/c1-15(2)21-12-9-16(10-13-21)20-18-7-5-11-22(18)14-17-6-3-4-8-19(17)23-20;3-1(4)2(5)6/h3-8,11,15-16,20H,9-10,12-14H2,1-2H3;(H,3,4)(H,5,6)
